US08049016B2
Synthesis of 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)-N-(pyridin-4-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with pyridin-4-ylmethanamine to react with 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 42% yield: mp 178-181° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.55 (s, 2H), 7.24-7.22 (m, 2H), 6.20-6.16 (m, 1H), 4.57 (d, J=5.9 Hz, 2H), 4.16-4.10 (m, 2H), 3.63-3.58 (m, 2H), 3.41-3.39 (m, 2H), 2.61 (s, 3H), 2.19-2.10 (m, 2H), 1.91-1.83 (m, 2H); MS (ES+) m/z 428.2 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | pyridin-4-ylmethanamine | N1=CC=C(C=C1)CN | C6H8N2
reactant | 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCC(F)(F)F)=O | C12H14F3N3O3S
product | 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)-N-(pyridin-4-ylmethyl)thiazole-5-carboxamide | 42% yield | CC=1N=C(SC1C(=O)NCC1=CC=NC=C1)N1C(N(CC1)CCCC(F)(F)F)=O | C18H20F3N5O2S
